US06165942
Synthesis of 8-(4-chloro-5-ethylsulfonylamino-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidine-7-thione (The compound No.20)
A mixture of 8-(4-chloro-5-ethylsulfonylamino-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (0.6 g), diphosphorus pentasulfide (0.5 g) and toluene (30 ml) was heated to reflux for 3 hours. The solid matter was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography of silica gel (developing solvent: ethyl acetate) to give the compound of interest (0.5 g) as a yellow crystal.

reactant | 8-(4-chloro-5-ethylsulfonylamino-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | 0.6 g | ClC1=CC(=C(C=C1NS(=O)(=O)CC)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C15H11ClF4N4O3S
reactant | diphosphorus pentasulfide | 0.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(4-chloro-5-ethylsulfonylamino-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidine-7-thione | ClC1=CC(=C(C=C1NS(=O)(=O)CC)N1C=2N(C(=CC1=S)C(F)(F)F)C=CN2)F | C15H11ClF4N4O2S2
